US07253286B2
Methyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinoline carboxylate
After adding Dowtherm A (160 ml) to methyl 2-(benzyloxy)-4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)benzoate (15.477 g, 37.6 mmol), the mixture was stirred at 200° C. for 1 hour. Upon cooling to room temperature, the precipitated crystals were filtered, washed with diethyl ether and blow-dried to obtain the title compound (7.19 g, 23.2 mmol, 61.8%).

reactant | methyl 2-(benzyloxy)-4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)benzoate | 37.6 mmol, 15.477 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)NC=C1C(OC(OC1=O)(C)C)=O | C22H21NO7
solvent | Dowtherm A | 160 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | Methyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinoline carboxylate | 23.2 mmol, 7.19 g, 61.8% | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC | C18H15NO4
